* ==========================================================================
* @part: TDA2030
* @family: opamps
* @source: Bordodynov
* @url: https://github.com/kicad-spice-library/KiCad-Spice-Library (Bordodynov LTspice library)
* @origin-file: KiCad-Spice-Library/Models/uncategorized/Bordodynovs Electronics Lib/sub/TDA2030.mod
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: garv.singh
* @pins: TDA2030: 3 2 6 7 4
* @notes: 14 W audio amp; pins 3 2 6 7 4 = IN+ IN- VCC VEE OUT
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

.SUBCKT TDA2030 3 2 6 7 4
* 3 2 6 7 4
* +in -in out Vcc Vee
Rc1 7 11 3.316e+003
Rc2 7 12 3.316e+003
Re1 13 15 3.068e+003
Re2 14 15 3.068e+003
RE 15 0 1.299e+007
IEE 15 4 1.540e-005
Rp 7 4 1.802e+003
VC 7 16 1.922e+000
VE 17 4 2.422e+000
D4 17 6 dmod34
D3 6 16 dmod34
R01 18 6 4.000e+000
R02 18 0 5.000e-001
RC 19 0 5.027e-006
C1 11 12 5.460e-012
Ce 15 0 1.000e-012
C2 18 20 3.000e-011
R2 20 0 1.000e+005
D1 18 19 dmod12
D2 19 18 dmod12
Ga 20 0 11 12 3.016e-004
Gcm 0 20 15 0 9.537e-009
Gb 18 0 20 0 1.326e+004
Gc 0 19 18 0 1.989e+005
.MODEL dmod12 D(IS=1.964e-164)
.MODEL dmod34 D(IS=8.000e-016)
Q1 11 2 13 QMOD1
Q2 12 3 14 QMOD2
.MODEL QMOD1 NPN(IS=8.0e-16 BF=3.571e+001 VAF=200)
.MODEL QMOD2 NPN(IS=8.0e-16 BF=3.947e+001 VAF=200)
.ends
