* ==========================================================================
* @part: uA741
* @family: opamps
* @source: MicroSim
* @url: https://www.egr.msu.edu/classes/ece445/mason/Files/445lab8_pre_subcrct.txt
* @retrieved: 2026-09-24
* @licence: no explicit grant
* @added-by: nav
* ==========================================================================
* ============================================================================
* ua741_boyle.lib  --  flag: BOTH (native ngspice; POLY E/F sources)
* ----------------------------------------------------------------------------
* Source: UA741 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT (MicroSim
*   Parts-generated Boyle macromodel, TI/National era), as hosted at
*   https://www.egr.msu.edu/classes/ece445/mason/Files/445lab8_pre_subcrct.txt
*   Netlist verified identical to that copy (2026-09-24). Other copies carry
*   the header "CREATED USING PARTS RELEASE 4.01 ON 07/05/89"; the MSU copy
*   does not.
* Licence: no explicit grant; widely republished for teaching. See NOTICE.md.
* Pins: IN+ IN- V+ V- OUT
*   (same order as the LTspice stock symbol Opamps/opamp2 -> set Value=UA741)
* ============================================================================
.SUBCKT UA741 1 2 3 4 5
C1 11 12 4.664E-12
C2 6 7 20.00E-12
DC 5 53 DX
DE 54 5 DX
DLP 90 91 DX
DLN 92 90 DX
DP 4 3 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 10.61E6 -10E6 10E6 10E6 -10E6
GA 6 0 11 12 137.7E-6
GCM 0 6 10 99 2.574E-9
IEE 10 4 DC 10.16E-6
HLIM 90 0 VLIM 1K
Q1 11 2 13 QX
Q2 12 1 14 QX
R2 6 9 100.0E3
RC1 3 11 7.957E3
RC2 3 12 7.957E3
RE1 13 10 2.740E3
RE2 14 10 2.740E3
REE 10 99 19.69E6
RO1 8 5 150
RO2 7 99 150
RP 3 4 18.11E3
VB 9 0 DC 0
VC 3 53 DC 2.600
VE 54 4 DC 2.600
VLIM 7 8 DC 0
VLP 91 0 DC 25
VLN 0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL QX NPN(IS=800.0E-18 BF=62.50)
.ENDS
